* source EEC_SENIORDESIGN
R_R2         N00673 N00587  110k TC=0,0 
C_C2         N00587 N00595  0.047u  TC=0,0 
E_U1         N00595 0 VALUE {LIMIT(V(N00693,N00595)*1E6,-15V,+15V)}
C_C3         0 N00673  0.1u  TC=0,0 
R_R3         N00587 N00693  33k TC=0,0 
R_R1         VIN N00673  11k TC=0,0 
C_C1         0 N00693  0.0068u  TC=0,0 
V_V1         VIN 0 DC 0Vdc AC 1Vac 
E_U2         VOUT 0 VALUE {LIMIT(V(N01126,VOUT)*1E6,-15V,+15V)}
C_C4         N00595 N01118  0.68u  TC=0,0 
C_C5         N01118 N01122  0.068u  TC=0,0 
C_C6         N01122 N01126  0.068u  TC=0,0 
R_R4         0 N01118  4.3k TC=0,0 
R_R6         0 N01126  100k TC=0,0 
R_R7         N01122 VOUT  22k TC=0,0 
